* Created by KLayout

* cell XNOR2
* pin B
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT XNOR2 B Y A vdd gnd
* device instance $1 r0 *1 18.1,44.8 PMOS_mst
M$1 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 22.1,44.8 PMOS_mst
M$2 \$9 B vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 26.1,44.8 PMOS_mst
M$3 Y A \$9 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $4 r0 *1 6.1,44.8 PMOS_mst
M$4 vdd A \$4 vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $5 r0 *1 10.1,44.8 PMOS_mst
M$5 \$4 B vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $6 r0 *1 18.1,6.8 NMOS_mst
M$6 \$6 \$4 Y gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $7 r0 *1 22.1,6.8 NMOS_mst
M$7 gnd B \$6 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $8 r0 *1 26.1,6.8 NMOS_mst
M$8 \$6 A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $9 r0 *1 6.1,6.8 NMOS_mst
M$9 \$2 A gnd gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $10 r0 *1 10.1,6.8 NMOS_mst
M$10 \$4 B \$2 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS XNOR2
